US06610729B1
(1) 2-[(2-Dimethylaminoethoxy)methyl]furan
Furfuryl alcohol (10.0 g, 102 mmol) was dissolved in DMF (200 ml) and sodium hydride (60% dispersion in oil, 9.00 g, 225 mmol) was added under ice-cooling. The mixture was stirred for 15 min at the same temperature. Then, 2-dimethylaminoethyl chloride hydrochloride (15.4 g, 107 mmol) was added under ice-cooling and the mixture was stirred at the same temperature for 30 min and at room temperature for 3.5 hr. Water (200 ml) was added to the reaction mixture under ice-cooling and the mixture was extracted with diethyl ether (2×500 ml). The organic layer was dried over anhydrous sodium sulfate and concentrated. The obtained residue was purified by silica gel column chromatography (20:1 chloroform-methanol) to give the title compound (4.19 g, 24%) as a red-brown liquid.

reactant | Furfuryl alcohol | 102 mmol, 10.0 g | C(C1=CC=CO1)O | C5H6O2
reactant | sodium hydride | 225 mmol, 9.00 g | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 107 mmol, 15.4 g | Cl.CN(CCCl)C
reactant | Water | 200 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-[(2-Dimethylaminoethoxy)methyl]furan | 4.19 g, 24% | CN(CCOCC=1OC=CC1)C | C9H15NO2
